US04012433
In another preparation on the same scale, the thionyl chloride and dimethylformamide in 25 ml of EDC were stirred at 65° while a warm solution of 4-hydroxy-2-butynyl N-(3-chlorophenyl)carbamate in 75 ml of EDC was added dropwise over 60 minutes. Barban (6.5 g) was obtained by evaporation of the solvent after 17 hours at 65° and analyzed by HPLC: barban 97.6% (w/w); biscarbanate -- 2.2% (w/w); bisurea -- 1.6% (w/w).

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 4-hydroxy-2-butynyl N-(3-chlorophenyl)carbamate | ClC=1C=C(C=CC1)NC(OCC#CCO)=O | C11H10ClNO3
solvent | EDC | 25 ml
solvent | EDC | 75 ml
product | Barban | 6.5 g | C1=CC(=CC(=C1)Cl)NC(=O)OC#CCl | C9H5Cl2NO2
